US04140713
c. 2-Chloro-5-[1-hydroxy-2-[(1-methyl-3-phenylpropyl)-amino]ethyl]benzenesulphonamide, hydrochloride
A solution of 2-chloro-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]-benzenesulphonamide (0.5 g) was hydrogenated over palladium oxide (0.05 g) for 18 hours (64 ml of hydrogen taken up; theory 48 ml). The catalyst was filtered off, washed with ethanol, and the resulting solution evaporated to dryness under reduced pressure to give the product as a white foam, 0.3 g, m.p. 88-94°.

reactant | 2-chloro-5-[1-hydroxy-2-[N-(1-methyl-3-phenylpropyl)-N-(phenylmethyl)amino]ethyl]-benzenesulphonamide | 0.5 g | ClC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)C(CCC1=CC=CC=C1)C)O)S(=O)(=O)N | C25H29ClN2O3S
reactant | hydrogen | 64 ml | [H][H] | H2
catalyst | palladium oxide | 0.05 g | [Pd]=O
product | 2-Chloro-5-[1-hydroxy-2-[(1-methyl-3-phenylpropyl)-amino]ethyl]benzenesulphonamide, hydrochloride | Cl.ClC1=C(C=C(C=C1)C(CNC(CCC1=CC=CC=C1)C)O)S(=O)(=O)N | InChI=1S/C18H23ClN2O3S.ClH/c1-13(7-8-14-5-3-2-4-6-14)21-12-17(22)15-9-10-16(19)18(11-15)25(20,23)24;/h2-6,9-11,13,17,21-22H,7-8,12H2,1H3,(H2,20,23,24);1H
